US04562187
(3-Benzoylisoxazol-5-yl)acetic acid
To a mixture of 8.8 g of 2-(3-benzoylisoxazol-5-yl)ethanol, in 1 liter of CH2Cl2, a few crystals of tetra-n-butylammonium hydrogen sulfate and 150 ml of 9M H2SO4 was added 11.9 g (41 mmol) of pulverized K2Cr2O7. The resulting mixture was stirred at room temperature for 1.5 hour. After allowing the mixture to settle, it was decanted from the unreacted dichromate. The aqueous phase was extracted with CH2Cl2, and the organics were washed with water and brine, and dried over MgSO4. Concentration gave a wet solid which was triturated with cyclohexane and collected to give 7.1 g of a solid. Recrystallization from toluene gave 4.0 g (43%) of a solid, m.p. 108°-110°.

reactant | 2-(3-benzoylisoxazol-5-yl)ethanol | 8.8 g | C(C1=CC=CC=C1)(=O)C1=NOC(=C1)CCO | C12H11NO3
reactant | H2SO4 | 9M, 150 ml | OS(=O)(=O)O | H2O4S
solvent | CH2Cl2 | 1 liter | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium hydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3-Benzoylisoxazol-5-yl)acetic acid | 7.1 g | C(C1=CC=CC=C1)(=O)C1=NOC(=C1)CC(=O)O | C12H9NO4
